US04904671
(d) 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butylamine
N-Acetyl-4-(2-methylimidazo[4,5-c]pyrid-1-yl)butylamine (1 g) was dissolved in 2M hydrochloric acid (100 ml) and heated at reflux for 8 hours. The solution was basified to pH8 with 2M sodium hydroxide solution and then extracted with methylene chloride using a continuous extractor. The organic extract was evaporated under vacuum to give the title product, (0.71 g).

reactant | N-Acetyl-4-(2-methylimidazo[4,5-c]pyrid-1-yl)butylamine | 1 g | C(C)(=O)NCCCCN1C(=NC=2C=NC=CC21)C | C13H18N4O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | hydrochloric acid | 2M, 100 ml | Cl | ClH
product | 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butylamine | 0.71 g | CC=1N(C2=C(C=NC=C2)N1)CCCCN | C11H16N4
